US08212041B2
3-hydroxy-6-iodoquinoline-4-carboxylic acid
5-iodoindoline-2,3-dione (50 g, 183 mmol) was dissolved in a hot solution containing potassium hydroxide (82 g, 1465 mmol) and water (250 mL). The reaction mixture was in homogeneous solution for 5 min then was precipitated out completely. Enough ethanol (30 ml) was added to redissolve the reaction mixture. After cooled to rt and mechanically stirred, 3-bromo-2-oxopropanoic acid hydrate (47 g, 256 mmol) was added portionwise—tremendous heat was generated (>80° C.). After the addition, the reaction mixture was cooled to rt and continued to stir for 3 days. The reaction mixture was treated with sat. solution of NaHSO3 (sodium bisulfite, 12 g, 115.32 mmol) in order to prevent the development of color in the product. The resulting mixture was then acidified to pH=2 using concentrated HCl. After stirred for 1 h, the yellow ppt. that was formed in the solution mixture was collected by filtration. The solid was washed with water and suspended in water with SO2 bubbling in the solution. After 30 minutes the solid again was separated by filtration. This wet solid was suspended in water, stirred, and dissolved by gradual addition of solid Na2CO3. The solution was treated with a saturated solution of NaHSO3 and filtered. The filtrate was acidified to pH=2 using concentrated HCl. The solid that was formed in the solution mixture was collected by filtration. The solid was washed with water, then resuspended in water, and again filtered. The solid was suspended in EtOH, separated by filtration, and airdried to afford the desired product as a brown solid. MS m/z: 316.2 (M+H). Calc'd. for C10H6INO3—315.06.

reactant | 5-iodoindoline-2,3-dione | 183 mmol, 50 g | IC=1C=C2C(C(NC2=CC1)=O)=O | C8H4INO2
reactant | potassium hydroxide | 1465 mmol, 82 g | [OH-].[K+]
reactant | 3-bromo-2-oxopropanoic acid hydrate | 256 mmol, 47 g | O.BrCC(C(=O)O)=O
reactant | NaHSO3 | 115.32 mmol, 12 g | OS(=O)[O-].[Na+]
reactant | HCl | Cl | ClH
solvent | water | 250 mL | O | H2O
product | 3-hydroxy-6-iodoquinoline-4-carboxylic acid | OC=1C=NC2=CC=C(C=C2C1C(=O)O)I | C10H6INO3
